US04241052
3.5 g of 1-(2-chloroethyl)-3-(thiophen-2-yl-methyl)-3-(L-arabinopyranosyl)urea and 5.0 g of nitrogen tetroxide gas are treated in the same manner as described in Example 31-(2). 3.1 g of 1-(2-chloroethyl)-1-nitroso-3-(thiophen-2-yl-methyl)-3-(L-arabinopyranosyl)urea are thereby obtained as yellow powder.

reactant | 1-(2-chloroethyl)-3-(thiophen-2-yl-methyl)-3-(L-arabinopyranosyl)urea | 3.5 g | ClCCNC(=O)N(C1[C@H](O)[C@@H](O)[C@@H](O)CO1)CC=1SC=CC1 | C13H19ClN2O5S
reactant | nitrogen tetroxide | 5.0 g | [N+](=O)([N+](=O)[O-])[O-] | N2O4
product | 1-(2-chloroethyl)-1-nitroso-3-(thiophen-2-yl-methyl)-3-(L-arabinopyranosyl)urea | 3.1 g | ClCCN(C(=O)N(C1[C@H](O)[C@@H](O)[C@@H](O)CO1)CC=1SC=CC1)N=O | C13H18ClN3O6S
